US05864039
4-Amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (1 g) as starting compound and cyclohexanecarboxaldehyde (0.32 g) were reacted and treated in the same manner as in Example 121 to give 1.2 g of 4-amino-5-chloro-N-((1-(5-(cyclohexylmethylamino)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 1 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN)C=C1Cl)OC | C19H31ClN4O2
reactant | cyclohexanecarboxaldehyde | 0.32 g | C1(CCCCC1)C=O | C7H12O
product | 4-amino-5-chloro-N-((1-(5-(cyclohexylmethylamino)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 1.2 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCNCC2CCCCC2)C=C1Cl)OC | C26H43ClN4O2
